US04946942
9-Fluorenylmethyloxycarbonyl-L-valine esterified to p-alkoxybenzyl alcohol derivitized 2% crosslinked polystyrene (0.25 gm, 0.13 mmol valine) was placed in a solid phase peptide synthesis vessel. Dimethylformamide (5 mL) was added and the slurry was shaken for 30 min. The dimethylformamide was removed and the swollen resin treated twice with 10% piperidine in dimethylformamide (5 mL for 5 min followed by 5 mL for 15 min) to remove the 9-fluorenylmethyloxycarbonyl protecting group. The resin was washed with dimethylformamide (4×5 mL) and reacted with 9-fluorenylmethyloxycarbonyl-L-leucine-N-carboxyanhydride (145 mg, 0.38 mmol) in dimethylformamide (6 mL) for 45 min. The fluorenylmethyloxycarbonyl protecting group was removed as above and the resin washed with dimethylformamide (3×5 mL) and methylene chloride (3×5 mL). The resulting dipeptide was cleaved from the resin by treatment with methylene chloride/trifluoroacetic acid (6 mL, 1/1) for 45 min. The solution was removed and the resin washed with methylene chloride (3×5 mL) and methanol (2×5 mL). The combined solution and washes were evaporated in vacuo to a semi-solid, which was taken up in distilled water and filtered. The aqueous solution was freeze-dried, the resulting solid triturated with ether(3× ) to remove resin related contaminants, and dried under reduced pressure to give L-leucyl-L-valine in >90% yield. The identity of the dipeptide was confirmed by HPLC analysis (flow rate=1.5 mL/min, detection at 215 nm, 30% methanol in 0.5M perchloric acid) by co-elution with a known standard (Retn. time 8.49 minutes). The purity was determined to be >97%, with all contaminants being traceable to the resin. No D-leucyl-L-valine (Retn. time 32 minutes) could be detected (detection limits <0.1%).

reactant | 9-Fluorenylmethyloxycarbonyl-L-valine | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](C(C)C)C(=O)O | C20H21NO4
reactant | dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
reactant | Dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | L-leucyl-L-valine | >90% yield | N[C@@H](CC(C)C)C(=O)N[C@@H](C(C)C)C(=O)O | C11H22N2O3
